US06372777B1
Preparation of 1-(3-Methoxycarbonylphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
Methyl 3-aminobenzoate (10 mmol, 1.4 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (10 mmol, 2.5 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The named product was purified over silica gel and crystallized upon standing, 1H-NMR (CDCl3, ppm): 1.15 t (3H), 2.08 s (3H), 3.88 s (3H), 4.05 q (2H), 6.56 s (1H), 7.15-7.33 bm (7H), 7.79-7.97 bm (2H).

reactant | Methyl 3-aminobenzoate | 10 mmol, 1.4 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 10 mmol, 2.5 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Methoxycarbonylphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=CC(=CC=C1)C(=O)OC)C1=CC=CC=C1 | C22H21NO4
